US06710055B2
1-Methyl-2-[2-(4-amidinophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl) amide hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[2-(4-cyanophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)amide and ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 73% of theory, C28H29N5O3 (483.6); Rf value: 0.15 (silica gel; dichloromethane/ethanol=4:1); EKA mass spectrum: (M+H)+=484; (M+H+Na)++=253.7.

reactant | 1-methyl-2-[2-(4-cyanophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl)amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OCC | C28H26N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[2-(4-amidinophenyl)ethyl]benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(ethoxycarbonylmethyl) amide hydrochloride | Yield: 73% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OCC | InChI=1S/C28H29N5O3.ClH/c1-3-36-26(34)18-33(22-7-5-4-6-8-22)28(35)21-14-15-24-23(17-21)31-25(32(24)2)16-11-19-9-12-20(13-10-19)27(29)30;/h4-10,12-15,17H,3,11,16,18H2,1-2H3,(H3,29,30);1H
